US09303000B2
Synthesis of 3-(methylthio)-5-(trifluoromethyl)benzamide
In a 500-mL, 3-neck round-bottomed flask equipped with an 100-mL pressure-equalizing addition funnel fitted with an nitrogen inlet, and a rubber septum, 3-fluoro-5-(trifluoromethyl)benzonitrile (8.0 g, 1.0 eq.), in acetone (40 mL). Sodiumthiomethoxide (3.42 g, 1.15 eq) was dissolved in water to make 21% aqueous solution and was added dropwise in 30 min at 5° C. temperature. The temperature of the reaction was slowly raised to RT and stirred for 3 h. Then temperature was raised to 50-60° C. and maintained for further 4-6 h. The progress of the reaction was followed by TLC analysis on silica gel with 10% MeOH-dichloromethane as mobile phase and visualization with UV, SM Rf=0.40 and Product Rf=0.25. Reaction was stirred for 3 hr at 25° C. and 4-6 hrs at 50-60° C. and reaction mixture was transparent. The reaction mass was quench by water and extracted by ethyl acetate (3×100 mL). The combined organic layer was washed with brine 50 mL and dried over sodium sulphate and evaporated on buchi rotaevaporator. The resulting crude compound (8 g) was subjected to further stage Yield (80.9%); Mass: (ES+) 235.94 (M+1).

reactant | 3-fluoro-5-(trifluoromethyl)benzonitrile | 8.0 g, 1.0 eq. | FC=1C=C(C#N)C=C(C1)C(F)(F)F | C8H3F4N
reactant | Sodiumthiomethoxide | 3.42 g, 1.15 eq | C[S-].[Na+]
reactant | MeOH dichloromethane | CO.ClCCl
solvent | acetone | 40 mL | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 3-(methylthio)-5-(trifluoromethyl)benzamide | CSC=1C=C(C(=O)N)C=C(C1)C(F)(F)F | C9H8F3NOS
